US05151548
116 g (0.43 mole) of 2-bromo-3-isopropylbenzyl acetate in 770 ml of dioxane and 255 g of 8% strength sodium hydroxide solution are hydrolyzed and worked up similarly to Example 1, Paragraph c. 98.2 g (quantitative) of 2-bromo-3-isopropylbenzyl alcohol of boiling point 110°-112° C./0.2 mbar are obtained.

reactant | 2-bromo-3-isopropylbenzyl acetate | 0.43 mole, 116 g | C(C)(=O)OCC1=C(C(=CC=C1)C(C)C)Br | C12H15BrO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 770 ml | O1CCOCC1 | C4H8O2
product | 2-bromo-3-isopropylbenzyl alcohol | 98.2 g | BrC1=C(CO)C=CC=C1C(C)C | C10H13BrO
